US08076324B2
4-(4-Fluorophenyl)-4-hydroxy-1-phenylcyclohexanecarbonitrile
8.8 g of 1-bromo-4-fluorobenzene were dissolved in 50 ml of dry THF in a dried two-necked flask under an argon atmosphere, cooled to −70° C., and 32.2 ml of n-butyllithium solution (1.55 M in n-hexane) were slowly added dropwise so that the internal temperature did not exceed −65° C. The reaction mixture was stirred for 1 h at −70° C. Subsequently, 10.0 g of 4-oxo-1-phenylcyclohexanecarbonitrile in the form of a suspension in 50 ml of THF were slowly added dropwise so that the internal temperature did not exceed −65° C. The reaction solution was stirred further for 1 h at −70° C. and subsequently warmed to room temperature. It was stirred for 3 h at room temperature, the reaction mixture was added to ice water, cautiously acidified with 1 N hydrochloric acid and extracted three times with EA. The combined organic phases were dried over magnesium sulfate and the solvent was removed in vacuo. The crude product, a brown oil, was crystallized from toluene. 13.8 g of the title compound were obtained as a white solid.

reactant | 1-bromo-4-fluorobenzene | 8.8 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | n-butyllithium | 1.55 M, 32.2 ml | C(CCC)[Li]
reactant | 4-oxo-1-phenylcyclohexanecarbonitrile | 10.0 g | O=C1CCC(CC1)(C#N)C1=CC=CC=C1 | C13H13NO
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-(4-Fluorophenyl)-4-hydroxy-1-phenylcyclohexanecarbonitrile | 13.8 g | FC1=CC=C(C=C1)C1(CCC(CC1)(C#N)C1=CC=CC=C1)O | C19H18FNO
